US08937092B2
10% Pd/C (7 mg) was added to a solution tert-butyl N-(4-nitrobenzyl)sulfamoyl-carbamate (65 mg) in ethanol and tetrahydrofuran and charged with H2. After stirring the reaction mixture for 6 h, the mixture was filtered using celite and evaporated in vacuo to obtain tert-butyl N-(4-aminobenzyl)sulfamoylcarbamate (58 mg, 98%).

reactant | tert-butyl N-(4-nitrobenzyl)sulfamoyl-carbamate | 65 mg | [N+](=O)([O-])C1=CC=C(CNS(=O)(=O)NC(OC(C)(C)C)=O)C=C1 | C12H17N3O6S
solvent | ethanol | C(C)O | C2H6O
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
catalyst | Pd/C | 7 mg | [Pd] | Pd
product | tert-butyl N-(4-aminobenzyl)sulfamoylcarbamate | 58 mg, 98% | NC1=CC=C(CNS(=O)(=O)NC(OC(C)(C)C)=O)C=C1 | C12H19N3O4S
